* preamp_ff_1.8_-20
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice ff
.include /repo/v2/analog/adc/adc_blocks.spice
.temp -20
.options reltol=1e-5 abstol=1e-14 vntol=1e-8 method=gear klu
.include /repo/v2/analog/adc/adc_preamp.spice
VDD vdd 0 1.8
VDDCMP cmpdd 0 1.8
VCM cm 0 0.9
VDIFF diff 0 DC 0 AC 1
EIP ip cm diff 0 .5
EIN inn cm diff 0 -.5
XPRE ip inn op on vdd 0 adc_preamp
XCMP op on q qb 0 cmpdd 0 adc_latched_comparator
CQ q 0 5f
CQB qb 0 5f
.nodeset v(q)=0 v(qb)=1.8

.control
set num_threads=1
set wr_singlescale
set wr_vecnames
set numdgt=12
op
wrdata /repo/v2/analog/adc/results/preamp_ff_1.8_-20_op.tsv v(op) v(on) v(xpre.bn) v(xpre.bp) i(vdd)
ac dec 30 1 1g
let dg=v(op)-v(on)
wrdata /repo/v2/analog/adc/results/preamp_ff_1.8_-20_ac.tsv real(dg) imag(dg)

quit
.endc
.end
